US07939531B2
A solution of 5-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid (0.060 g, 0.18 mmol), methylaminoacetonitrile (0.200 mL, 1.64 mmol) and EDCI (0.315 g, 1.64 mmol) in 3 mL of ethanol and 3 mL of dichloromethane was stirred for 1 h, then concentrated. The resulting residue was partitioned between 30 ml of ethyl acetate and 30 mL of a 10% citric acid solution, and the aqueous layer was extracted 30 mL of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0->40% EtOAc/hexanes) afforded 0.040 g (58%) of 5-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid cyanomethyl-methyl-amide as a pale yellow solid.

reactant | 5-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid | 0.18 mmol, 0.060 g | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C(S2)C(=O)O)(C)C | C16H15N3O3S
reactant | methylaminoacetonitrile | 1.64 mmol, 0.200 mL | CNCC#N | C3H6N2
reactant | EDCI | 1.64 mmol, 0.315 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid cyanomethyl-methyl-amide | 0.040 g, 58% | C(#N)CN(C(=O)C=1SC(=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O)C | C19H19N5O2S
